US07968538B2
1,2,3,4-Tetrahydro-6,7-dimethoxy-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine
A solution of 1,2,3,4-tetrahydro-6,7-dimethoxynaphthalen-1-amine (200.0 mg, 0.96 mmol), 2,4-difluoro-1-(methylsulfonyl)benzene (185.0 mg, 0.96 mmol) and diisopropylethylamine (496.0 mg, 3.84 mmol) in N,N-dimethylformamide (2 mL) was stirred at 110° C. for 16 h. The reaction was cooled to room temperature, poured over water and extracted with diethyl ether. The solvent was concentrated in vacuo and the residue was used without further purification for the following reaction. N-(5-Fluoro-2-(methylsulfonyl)phenyl)-1,2,3,4-tetrahydro-6,7-dimethoxynaphthalen-1-amine (150 mg, 0.40 mmol), piperazine (683 mg, 7.90 mmol), N,N-diisopropylethylamine (510 mg, 4.00 mmol) were stirred at 80° C. in dry acetonitrile (3 mL) for 16 h. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated and the crude compound was purified by silica chromatography using 10% methanol in dichloromethane to afford the title compound (30 mg, 17% yield). 1H NMR (400 MHz, CDCl3): δ 7.63 (d, 1H), 6.79 (s, 1H), 6.59 (s, 1H), 6.31 (m, 2H), 6.25 (d, 1H), 4.62 (m, 1H), 3.87 (s, 3H), 3.78 (s, 3H), 3.30 (m, 4H), 3.02 (m, 4H), 2.94 (s, 3H), 2.72 (m, 2H), 1.84 (m, 4H); MS (ESI) m/z: 446.3 (M++1).

reactant | 1,2,3,4-tetrahydro-6,7-dimethoxynaphthalen-1-amine | 0.96 mmol, 200.0 mg | COC=1C=C2CCCC(C2=CC1OC)N | C12H17NO2
reactant | 2,4-difluoro-1-(methylsulfonyl)benzene | 0.96 mmol, 185.0 mg | FC1=C(C=CC(=C1)F)S(=O)(=O)C | C7H6F2O2S
reactant | diisopropylethylamine | 3.84 mmol, 496.0 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(5-Fluoro-2-(methylsulfonyl)phenyl)-1,2,3,4-tetrahydro-6,7-dimethoxynaphthalen-1-amine | 0.40 mmol, 150 mg | FC=1C=CC(=C(C1)NC1CCCC2=CC(=C(C=C12)OC)OC)S(=O)(=O)C | C19H22FNO4S
reactant | piperazine | 7.90 mmol, 683 mg | N1CCNCC1 | C4H10N2
reactant | N,N-diisopropylethylamine | 4.00 mmol, 510 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1,2,3,4-Tetrahydro-6,7-dimethoxy-N-(2-(methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine | 30 mg, 17% yield | COC=1C=C2CCCC(C2=CC1OC)NC1=C(C=CC(=C1)N1CCNCC1)S(=O)(=O)C | C23H31N3O4S
